US04203988
B. 2-(2-Dimethylaminoethylamino)-5-chloropyridine
A solution of N-(2-dimethylaminoethyl)-N-(5-chloro-2-pyridyl)acetamide (45.5 g, 0.19 mole) in 200 ml of 6 N-hydrochloric acid is stirred at reflux for 16 hours. The excess hydrochloric acid is removed by evaporation under reduced pressure. The oily residue is treated with excess 10 N sodium hydroxide and the product is extracted into ether. The ether extract is dried, filtered and evaporated under reduced pressure. The residual oil is purified by distillation, b.p. 106°-111° at 0.7 mm n25D 1.556. Weight obtained is 32.5 g.

reactant | N-(2-dimethylaminoethyl)-N-(5-chloro-2-pyridyl)acetamide | 0.19 mole, 45.5 g | CN(CCN(C(C)=O)C1=NC=C(C=C1)Cl)C | C11H16ClN3O
reactant | hydrochloric acid | Cl | ClH
product | 2-(2-Dimethylaminoethylamino)-5-chloropyridine | CN(CCNC1=NC=C(C=C1)Cl)C | C9H14ClN3
